US09278950B2
Step 2. 3-Amino-N-{4-[(3R,4R,5S)-3-amino-4-hydroxy-5-methylpiperidin-1-yl]pyridin-3-yl}-7-(4-methyl-3-oxopiperazin-1-yl)quinoline-2-carboxamide
A mixture of benzyl [2-[({4-[(3R,4R,5S)-3-amino-4-hydroxy-5-methylpiperidin-1-yl]pyridin-3-yl}amino)carbonyl]-7-(4-methyl-3-oxopiperazin-1-yl)quinolin-3-yl]carbamate (0.0070 g, 0.011 mmol) in 3.0 mL of MeOH was hydrogenated in the presence of 8 mg of 10% Pd on carbon under a balloon of hydrogen at room temperature for 1 h. The mixture was then filtered and the filtrate was purified by preparative HPLC (XBridge™ C18 column, eluting with a gradient of MeCN/water containing 0.1% NH4OH, at a flow rate of 30 mL/min.) to afford the title compound. LCMS calc. for C26H33N8O3 [M+H]+: m/z=505.3. found: 505.3.

reactant | benzyl [2-[({4-[(3R,4R,5S)-3-amino-4-hydroxy-5-methylpiperidin-1-yl]pyridin-3-yl}amino)carbonyl]-7-(4-methyl-3-oxopiperazin-1-yl)quinolin-3-yl]carbamate | 0.011 mmol, 0.0070 g | N[C@@H]1CN(C[C@@H]([C@H]1O)C)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1NC(OCC1=CC=CC=C1)=O)N1CC(N(CC1)C)=O | C34H38N8O5
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 3.0 mL | CO | CH4O
catalyst | Pd on carbon | 8 mg | [Pd] | Pd
product | 3-Amino-N-{4-[(3R,4R,5S)-3-amino-4-hydroxy-5-methylpiperidin-1-yl]pyridin-3-yl}-7-(4-methyl-3-oxopiperazin-1-yl)quinoline-2-carboxamide | NC=1C(=NC2=CC(=CC=C2C1)N1CC(N(CC1)C)=O)C(=O)NC=1C=NC=CC1N1C[C@H]([C@@H]([C@H](C1)C)O)N | C26H32N8O3
